US07625938B2
In a N2 filled round-bottomed flask equipped with serum caps and magnetic stirrer, NaBH3CN (6.0 g, 0.095 mol) and tert-butyl-2-{1-[4-(ethoxycarbonyl)phenyl]-ethylidene}hydrazinecarboxylate (25.6 g, 0.084 mol) were dissolved in THF (200 mL). A solution of p-toluenesulfonic acid monohydrate (17.3 g, 0.091 mol) in THF (50 mL) was slowly added via syringe pump. Completion of addition required about 10 h. The mixture was diluted with EtOAc (200 mL) and the suspension extracted with brine (150 mL). The organic phase was separated, dried (Na2SO4) and concentrated on a rotovap to give white solid. The white solid was taken in CH2Cl2 (100 mL) and 1 N NaOH (100 mL) was added. The suspension was stirred vigorously at r.t. for 1 h and then diluted with CH2Cl2 (100 mL). The organic phase was separated and extracted with 1N HCl (2×150 mL), brine (2×150 mL), dried (Na2SO4) and concentrated to approximately 50 mL. Product precipitated as white solid and was collected by filtration and washed with hexane to yield tert-butyl 2-{1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinecarboxylate. HPLC/MS: m/z=331.3 (M+Na)+, Rt=3.24 min. 1H NMR (500 MHz, CDCl3): δ 8.03 (2H, d, J=8.0 Hz), 7.44 (2H, d, J=8.0 Hz), 5.99 (1H, br s), 4.40 (2H, q, J=7.0 Hz), 4.29 (1H, m), 1.45 (9H, s), 1.41 (3H, t, J=7.0 Hz), 1.35 (3H, d, J=6.5 Hz).

reactant | NaBH3CN | 0.095 mol, 6.0 g | [BH3-]C#N.[Na+]
reactant | tert-butyl-2-{1-[4-(ethoxycarbonyl)phenyl]-ethylidene}hydrazinecarboxylate | 0.084 mol, 25.6 g | C(C)(C)(C)OC(=O)NN=C(C)C1=CC=C(C=C1)C(=O)OCC | C16H22N2O4
reactant | p-toluenesulfonic acid monohydrate | 0.091 mol, 17.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaOH | 1 N, 100 mL | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-{1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinecarboxylate | C(C)OC(=O)C1=CC=C(C=C1)C(C)NNC(=O)OC(C)(C)C | C16H24N2O4
